US06337403B1
6(i) cis-5-(Acetylthio)-2-phenyl-1,3-dioxane
A mixture of 30 g (90 mmol) of trans-2-phenyl-5-(p-toluenesulfonyloxy)-1,3-dioxane (prepared as described in Tetrahedron, 48, 5941-5950), 15.3 g (134 mmol) of potassium thioacetate, 240 ml of toluene and 60 ml of N,N-dimethylacetamide was stirred at 100° C. for 3 hours and then at 110-120° C. for 7 hours. After cooling, the reaction mixture was partitioned between toluene and water. The organic layer was then washed with water, dried over anhydrous magnesium sulfate and concentrated. The resulting oily residue was purified by chromatography on a silica gel (200 g) column using a 1:4 mixture of ethyl acetate and hexane as the eluant to afford the crude title compound as a solid. This solid was recrystallized from a mixture of ethyl acetate and hexane to afford 10 g (yield 47%) of the title compound as brown needle-like crystals.

reactant | trans-2-phenyl-5-(p-toluenesulfonyloxy)-1,3-dioxane | 90 mmol, 30 g | C1(=CC=CC=C1)[C@@H]1OC[C@H](CO1)OS(=O)(=O)C1=CC=C(C=C1)C | C17H18O5S
reactant | potassium thioacetate | 134 mmol, 15.3 g | C(C)(=S)[O-].[K+]
reactant | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylacetamide | 60 ml | CN(C(C)=O)C | C4H9NO
product | cis-5-(Acetylthio)-2-phenyl-1,3-dioxane | 10 g, yield 47% | C(C)(=O)S[C@@H]1CO[C@@H](OC1)C1=CC=CC=C1 | C12H14O3S
